US09029545B2
2-Amino-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylic acid
A mixture of ethyl 4-{[(3-chlorophenyl)sulfonyl]amino}-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate (Description 83) (600 mg, 0.949 mmol) and aqueous NaOH (2M) (2.373 mL, 4.75 mmol) in DMSO (10 mL) was heated at 150° C. for 40 min. After cooling to RT, the mixture was diluted with water (20 mL) and acidified with formic acid to pH 6. The mixture was then extracted with ethyl acetate (30 mL×5) and the combined organics concentrated. The residue was passed through a phase separator (C18 cartridge) eluting with water (20 mL×3) and MeOH (20 mL×5) and the combined methanolic fractions concentrated and dried, to give the title compound (388 mg). LCMS (A) m/z: 504 [M+1]+, Rt 1.17 min (acidic).

reactant | ethyl 4-{[(3-chlorophenyl)sulfonyl]amino}-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate | 0.949 mmol, 600 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C2=CC(=CC=C2)OC)NC(=O)OC(C)(C)C | C29H30ClN3O7S2
reactant | NaOH | 4.75 mmol, 2M, 2.373 mL | [OH-].[Na+]
reactant | formic acid | C(=O)O | CH2O2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
product | 2-Amino-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylic acid | 388 mg | NC1=C(C=2C(=NC(=C(C2NS(=O)(=O)C2=CC(=CC=C2)Cl)C(=O)O)C)S1)C1=CC(=CC=C1)OC | C22H18ClN3O5S2
